US06969728B2
2-{4-[4-(4-Benzyl-piperazin-1-ylmethyl)-phenoxy]-3,5-dimethyl-pyrazol-1-yl}-4-pyridin-2-yl-pyrimidine (Compound 104)
To a solution of 4-[3,5-dimethyl-1-(4-pyridin-2-yl-pyrimidin-2-yl)-1H-pyrazol-4-yloxy]-benzaldehyde (0.545 g, 1.47 mmol) and 1-benzylpiperazine (0.310 g, 1.76 mmol) in dichloroethane (10 mL) was added sodium triacetoxyborohydride (0.436 g, 2.06 mmol). The reaction mixture was stirred at room temperature for 17 hours. The solution was diluted with methylene chloride (50 mL) and washed with saturated sodium hydrogencarbonate (2×30 mL) and brine (50 mL). The organic phase was dried (magnesium sulfate), filtered, and concentrated to afford a yellow oil. Flash chromatography over silica (2 M ammonia in methanol/methylene chloride) provided 0.183 g (23%) of the product as a white foam: 1H NMR (CDCl3) δ 8.94-8.93 (m, 1H), 8.75 (d, J=3.9 Hz, 1H), 8.46 (d, J=7.9 Hz, 1H), 8.25 (d, J=3.9 Hz, 1H), 7.90-7.87 (m, 1H), 7.46-7.43 (m, 1H), 7.31-7.21 (m, 7H), 6.89 (d, J=8.5 Hz, 2H), 3.52 (s, 2H), 3.47 (s, 2H), 2.68 (s, 3H), 2.48 (br s, 8H), 2.21 (s, 3H) ppm.

reactant | 4-[3,5-dimethyl-1-(4-pyridin-2-yl-pyrimidin-2-yl)-1H-pyrazol-4-yloxy]-benzaldehyde | 1.47 mmol, 0.545 g | CC1=NN(C(=C1OC1=CC=C(C=O)C=C1)C)C1=NC=CC(=N1)C1=NC=CC=C1 | C21H17N5O2
reactant | 1-benzylpiperazine | 1.76 mmol, 0.310 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | sodium triacetoxyborohydride | 2.06 mmol, 0.436 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-{4-[4-(4-Benzyl-piperazin-1-ylmethyl)-phenoxy]-3,5-dimethyl-pyrazol-1-yl}-4-pyridin-2-yl-pyrimidine | 0.183 g, 23% | C(C1=CC=CC=C1)N1CCN(CC1)CC1=CC=C(OC=2C(=NN(C2C)C2=NC=CC(=N2)C2=NC=CC=C2)C)C=C1 | C32H33N7O
